US03984467
1-Phenyl-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 23 but using 6.9 g. sodium in 300 ml. dry acetone, 41.1 g. valeramidine hydrochloride, and 35.7 g. phenyl isocyanate in 200 ml. dry acetone, there was obtained after recrystallization from ethyl alcohol 40.3 g. 1-phenyl-3-(pentanimidoyl)urea hydrochloride; m.p. 155.5°-156°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-Phenyl-3-(pentanimidoyl)urea | C1(=CC=CC=C1)NC(=O)NC(CCCC)=N | C12H17N3O
